US08236806B2
1-phenyl-4-(3-(1-phenyl-3-methyl-1H-pyrazol-5-yl)propyl)piperazine (Compound 121)
60 mg (81%) of target compound was obtained by using a method same as in Example 1 by using 3-(1-phenyl-3-methyl-1H-pyrazol-5-yl)propanal (44 mg, 0.206 mmol), 1-phenylpiperazine (0.031 mL, 0.206 mmol), DIPEA (0.054 mL, 0.310 mmol) and NaBH(OAc)3 (131 mg, 0.621 mmol).

reactant | 3-(1-phenyl-3-methyl-1H-pyrazol-5-yl)propanal | 0.206 mmol, 44 mg | C1(=CC=CC=C1)N1N=C(C=C1CCC=O)C | C13H14N2O
reactant | 1-phenylpiperazine | 0.206 mmol, 0.031 mL | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | DIPEA | 0.310 mmol, 0.054 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.621 mmol, 131 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-phenyl-4-(3-(1-phenyl-3-methyl-1H-pyrazol-5-yl)propyl)piperazine | C1(=CC=CC=C1)N1CCN(CC1)CCCC1=CC(=NN1C1=CC=CC=C1)C | C23H28N4
